US06232290B1
A solution of 4-(4′-hydroxyphenyl)benzoic acid (4.98 g), methyliodide (5 ml), and sodium carbonate (7.19 g) in N,N-dimethylformamide (50 ml) was stirred for 17 hours at room temperature. The reaction mixture was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with water and brine. After dried over magnesium sulfate, the solution was evaporated in vacuo. The residue was triturated with n-hexane to afford methyl 4-(4′-methoxyphenyl)benzoate (5.45 g).

reactant | 4-(4′-hydroxyphenyl)benzoic acid | 4.98 g | OC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O3
reactant | methyliodide | 5 ml | CI | CH3I
reactant | sodium carbonate | 7.19 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | methyl 4-(4′-methoxyphenyl)benzoate | 5.45 g | COC1=CC=C(C=C1)C1=CC=C(C(=O)OC)C=C1 | C15H14O3
